Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
simvastatin
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
 
This patient is a ___ year old male with a past medical
history of CAD, NIDDM, hypertension, and
hypercholesterolemia who presents with one week of diffuse
abdominal pain.
 
The patient reports that his abdominal pain is occasionally
exacerbated by eating. He reports that he is passing flatus
and has been having normal bowel movements. The patient
reports that his pain is severe (greater than 10 out of 10)
and constantly located in the right lower quadrant.
The patient ___ any accompanying nausea, vomiting,
diarrhea, fevers, chills, shortness of breath, or dysuria.
Patient's reports chronic lower back pain is unchanged from
prior and is currently being treated at the ___ this.
                       Timing: Gradual
                      Quality: Crampy
                     Severity: Moderate
                     Duration: Days

 
Past Medical History:
CAD, NIDDM, HTN, High Cholesterol

 
Social History:
___
Family History:
nc
 
Physical Exam:
PHYSICAL EXAMINATION: upon admission:  ___
 
Temp: 98.2 HR: 91 BP: 153/79 Resp: 18 O(2)Sat: 99 Normal
 
Constitutional: Uncomfortable
HEENT: Normocephalic, atraumatic, Pupils equal, round and
reactive to light, Extraocular muscles intact
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Soft, Nondistended. Focal tenderness to
palpation in the right lower quadrant with guarding.
Extr/Back: No cyanosis, clubbing or edema
Skin: Warm and dry
Neuro: Speech fluent, neuro intact
Psych: Normal mood, Normal mentation

Physical examination upon discharge: ___

Vital signs:  t=98.5, hr=78, bp=153/84, oxygen sat=97%, rr=18

General:  NAD
HEENT:  anicteric
CV:  ns1, s2, -s3, -s4, no murmurs
LUNGS:  clear
ABDOMEN: soft, non-tender, hypoactive BS
EXT:  no calf tenderenss, no pedal edema bil.
NEURO:  Follows commands, oriented x 3

 

 
Pertinent Results:
Hematology 
  COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW Plt Ct 
___ 05:40    5.2 4.85 13.0* 40.3 83 26.9* 32.3 12.7 173 
___ 05:40AM BLOOD WBC-5.2 RBC-4.85 Hgb-13.0* Hct-40.3 
MCV-83 MCH-26.9* MCHC-32.3 RDW-12.7 Plt ___
___ 09:25AM BLOOD WBC-4.6 RBC-4.77 Hgb-12.9* Hct-40.1 
MCV-84 MCH-27.0 MCHC-32.1 RDW-12.7 Plt ___
___ 09:25AM BLOOD Neuts-54.1 ___ Monos-6.4 Eos-1.5 
Baso-0.7
___ 05:40AM BLOOD Plt ___
___ 09:25AM BLOOD Plt ___
___ 05:40AM BLOOD Glucose-110* UreaN-16 Creat-0.7 Na-137 
K-4.1 Cl-103 HCO3-28 AnGap-10
___ 09:25AM BLOOD Glucose-320* UreaN-16 Creat-0.8 Na-139 
K-4.0 Cl-102 HCO3-27 AnGap-14
___ 05:40AM BLOOD Calcium-8.9 Phos-3.1 Mg-2.0

___:  cat scan of abdomen and pelvis:

ReportIMPRESSION: 
Preliminary Report1. Proximal portion of the appendix is dilated 
to 10-mm and has mild wall 
Preliminary Reportthickening, which can be seen with early 
appendicitis, though this is not 
Preliminary Reportsuggested by the clinical history. No 
periappendiceal stranding or fluid. No 
Preliminary Reportother evidence for appendicitis. 
Preliminary Report2. 2.2-cm indeterminate left adrenal gland 
nodule. MR may be obtained for 
Preliminary Reportfurther evaluation. 
Preliminary Report3. Small fat-containing right inguinal hernia. 

Preliminary Report4. Diffuse hepatic steatosis. 
  

 
Brief Hospital Course:
The patient was admitted to the acute care service with 
abdominal pain.  Upon admission, he was made NPO, given 
intravenous fluids, and underwent imaging.  He was found on cat 
scan to have an appendix dilated to 10-mm and mild wall 
thickening.  No ___ stranding or fluid was noted.  
He was ordered for serial abdominal examinations.  His white 
blood cell count was closely monitored and he was afebrile.  He 
was not placed on antibiotcs. 

On HD #2, he was started on a regular diet. His abdominal pain 
was present only with palpation and that has diminished in 
intensity.  He was ambulating and voiding without difficulty. He 
passed flatus.
He was discharged on HD # 3 with instructions to follow-up in 
the acute care clinic and with his primary care provider.
 
Medications on Admission:
Atenolol, Lisinopril, Metformin, ASA, Unknown narcotic for pain 
 
Discharge Medications:
1. Lisinopril 2.5 mg PO DAILY 
2. Atenolol 50 mg PO DAILY 
3. MetFORMIN (Glucophage) 500 mg PO DAILY 
please begin after you are tolerating a regular diet 
4. Docusate Sodium 100 mg PO BID 
5. Aspirin 81 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
abdominal pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hosptial with abdominal pain.  You 
underwent a cat scan of the abdomen which showed showed a 
dilated appendix and there was concern for appendicitis.  You 
were placed on bowel rest and your abdomen was closely assessed. 
You had a normal white blood blood cell count.  You were placed 
on bowel rest and your abdominal pain slowly resolved.  You were 
started on a regular diet.  You are preparing for discharge home 
with the following instructions:

Please call your doctor or return to the emergency room if you 
have any of the following:

*  A recurrence of your abdominal pain
 

 * You experience new chest pain, pressure, squeezing or 
 tightness.
 
* New or worsening cough or wheezing.
 
* If you are vomiting and cannot keep in fluids or your 
 medications.
 
* You are getting dehydrated due to continued vomiting, 
 diarrhea or other reasons. Signs of dehydration include dry 
 mouth, rapid heartbeat or feeling dizzy or faint when standing.
 
* You see blood or dark/black material when you vomit or have a 
 bowel movement.
 

* You have shaking chills, or a fever greater than 101.5 (F) 
 degrees or 38(C) degrees.
 
* Any serious change in your symptoms, or any new symptoms that 
 concern you. 
 
* Please resume all regular home medications and take any new 
meds 
 as ordered
  
 
Followup Instructions:
___